US04960776
4-Phenyl-N-(1,2,3,6-tetrahydropyridin-1-yl-ethyl)-1-piperazinecarboxamide.
Following the procedure of Example 5, N-(2-aminoethyl)-1,2,3,6-tetrahydropyridine and 1,1'-carbonyldiimidazole are reacted together in tetrahydrofuran and the product thereof is reacted further with 1-phenylpiperazine to give the title compound.

reactant | N-(2-aminoethyl)-1,2,3,6-tetrahydropyridine | NCCN1CCC=CC1 | C7H14N2
reactant | 1,1'-carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1-phenylpiperazine | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-Phenyl-N-(1,2,3,6-tetrahydropyridin-1-yl-ethyl)-1-piperazinecarboxamide | C1(=CC=CC=C1)N1CCN(CC1)C(=O)NCCN1CCC=CC1 | C18H26N4O
